US04288437
(E)-2-{[[2-(4-Morpholinyl)ethyl]amino]phenylmethylene}benzo-[b]thiophen-3(2H)-one
Prepared as in Example 35 from 2-benzoyl-benzo[b]thiophen-3-ol and 2-(4-morpholinyl)-ethylamine instead of ammonium acetate with a yield of 62% of theory.

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | 2-(4-morpholinyl)-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | (E)-2-{[[2-(4-Morpholinyl)ethyl]amino]phenylmethylene}benzo-[b]thiophen-3(2H)-one | yield of 62% | N1(CCOCC1)CCN\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C21H22N2O2S
